US07696213B2
To a solution of 2-amino-8-(trans-4-methoxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (482 mg, 0.1.67 mmol) in dimethylformamide (15 mL) was added N-bromosuccinimide (300 mg, 1.69 mmol). After stirring for 1 hour at room temperature the solution was diluted with methyltertbutylether and washed with 50% sodium carbonate (2×) and brine. The combined aqueous layers were extracted with dichloromethane. The combined organics were dried (MgSO4) filtered and concentrated. The solids were triturated with diethyl ether to afford 2-amino-6-bromo-8-(trans-4-methoxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (594 mg, 97%).

reactant | 2-amino-8-(trans-4-methoxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 482 mg | NC=1N=C(C2=C(N1)N(C(C=C2)=O)[C@@H]2CC[C@H](CC2)OC)C | C15H20N4O2
reactant | N-bromosuccinimide | 1.69 mmol, 300 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | methyltertbutylether | COC(C)(C)C | C5H12O
product | 2-amino-6-bromo-8-(trans-4-methoxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 594 mg, 97% | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)[C@@H]2CC[C@H](CC2)OC)C | C15H19BrN4O2
